US07585878B2
Into 10 ml of toluene was suspended 200 mg of 1-methyl-2-oxo-1,2,3,4-tetrahydroquinoline-7-carboxylic acid, and then 268 mg of diphenylphosphoryl azide (DPPA), 722 mg of tert-butyl alcohol, and 0.135 ml of triethylamine were added thereto, followed by 14 hours of stirring under reflux with heating. After cooling, the reaction solution was concentrated under reduced pressure, water was added to the residue, and the organic layer was extracted with ethyl acetate. After the organic layer was dried over anhydrous sodium sulfate, the solvent was removed by evaporation. To the residue was added 5 ml of a 4M ethyl acetate solution of hydrochloric acid, followed by 7 hours of stirring at room temperature. Then, the reaction solution was concentrated under reduced pressure. To the residue was added a saturated aqueous sodium hydrogen carbonate, and the organic layer was extracted with chloroform. After the organic layer was dried over anhydrous sodium sulfate, the solvent was removed by evaporation. The obtained residue was purified by silica gel column chromatography (chloroform:methanol:aqueous ammonia) to obtain 80 mg of 7-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one as a white solid.

reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1-methyl-2-oxo-1,2,3,4-tetrahydroquinoline-7-carboxylic acid | 200 mg | CN1C(CCC2=CC=C(C=C12)C(=O)O)=O | C11H11NO3
reactant | diphenylphosphoryl azide | 268 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butyl alcohol | 722 mg | C(C)(C)(C)O | C4H10O
solvent | triethylamine | 0.135 ml | C(C)N(CC)CC | C6H15N
product | 7-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one | 80 mg | NC1=CC=C2CCC(N(C2=C1)C)=O | C10H12N2O
